US05610293
A. Synthesis of 1,5,9-Tris(p-toluenesulfonyl)-1,5,9-triazanonane
To a stirred solution of p-toluenesulfonyl chloride (240 g, 1.26 mole) in pyridine (600 ml) at 0° C. was added a solution of 1,5,9-triazanonane (50.0 g, 0.381 mole) in pyridine (100 ml) under a dry nitrogen atmosphere, maintaining the temperature ≤60° C. The addition required 15 minutes. The solvent was removed in vacuo and the resulting yellow oil was dissolved in ethyl acetate (1 l) and H2O (500 ml). The ethyl acetate layer was separated, washed with 0.1N HCl, H2O and saturated NaCl solution and dried (MgSO4). The solution was decolorized with silica gel and the solvent was removed in vacuo to give 133 g (59% yield) of the crude product as a glassy solid: 1H NMR (CDCl3) δ1.71 (quint, J=6.6 Hz, 4 H), 2.42 (s, 6 H), 2.43 (s, 3 H), 2.96 (quart, J=6.4 Hz, 4 H), 3.11 (t, J=6.8 Hz, 4 H), 5.12 (t, J=6.6 Hz, 2 H), 7.30 (m, 6 H), 7.63 (m, 2 H), 7.73 (m, 4 H).

reactant | p-toluenesulfonyl chloride | 1.26 mole, 240 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1,5,9-triazanonane | 0.381 mole, 50.0 g | NCCCNCCCN | C6H17N3
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1,5,9-Tris(p-toluenesulfonyl)-1,5,9-triazanonane | 133 g, 59% yield | C1(=CC=C(C=C1)S(=O)(=O)NCCCN(CCCNS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C27H35N3O6S3
